Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Percocet / latex
 
Attending: ___.
 
Chief Complaint:
headache and left arm tingling
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
per Dr. ___ note

___ patient is a ___ year-old ___ woman with a history 
of depression who presents to the ED because of headache and 
left sided paresthesias. Patient is obtained from the patient 
and her son who provides translation at the bedside.

Mrs. ___ was in her usual state of health this morning while 
at work as a ___ the morning of ___.  At 8am, she 
developed gradual onset of left hand and distal forearm painful 
paresthesias.  She was able to ignore this for some time and 
continue to work and use her left hand.  At 9am, she noticed a 
left headache that started at the back of her head and traveled 
down her left lateral neck and into her left arm.  She described 
this as painful stabbing that caused her to cry out in pain.  
She was nauseated as well, but did not vomit. She also had 
bilateral, painful, watering eyes.  She described her eyes as if 
there was a foreign body in them.  She also kept describing a 
darkness on the right peripheral vision, but it was unclear if 
this was monocular or binocular.  Also unclear if this was 
because she was continually rubbing her eyes and squinting.  She 
also complained of pins and needles in her left leg and painful 
bilateral soles of her feet.

She called her son who urged her to go to the ED.  She initially 
presented to ___ where she collapsed in the waiting room with 
positive head strike and unclear if there was loss of 
consciousness.  She did have an abrasion on her left temple 
after this fall.  She left the ___ ED prior to evaluation as she 
felt she was not being evaluated fast enough.  No imaging was 
done at ___.

She then presented to our ___ ED and continues to have severe 
___ headache and left sided paresthesias.  She also has 
unstable gait and lightheadedness.  She may have had vertigo 
earlier today, but this is unclear and no longer present. 

Of note, she was hospitalized in mid ___ at ___ with a left 
hand and forearm infection that required antibiotics and a 
brace. She was also found to have a kidney stone.  She has since 
had more swelling of the left arm, but has not previously had 
tingling. 

Also, she does have a history of headache that are resolved with 
tylenol. She may have had one migraine in ___ requiring 
hospitalization, but her other headaches were not clearly 
migranous. She has not previously had paresthesias with her 
headaches. 

On neurologic review of systems, the patient denies confusion. 
Denies difficulty with producing or comprehending speech. Denies 
diplopia, tinnitus, dysarthria, or dysphagia. Denies focal 
muscle weakness. Denies bowel or bladder incontinence or 
retention. 

On general review of systems: she does have left sided rib pain 
with breathing.  Also with dysuria.  She denies fevers, rigors, 
night sweats, or noticeable weight loss. Denies palpitations, 
dyspnea, or cough. Denies vomiting, diarrhea, constipation, or 
abdominal pain.  No recent change in bowel or bladder habits.  
Denies hematuria. Denies myalgias, arthralgias, or rash.
 
Past Medical History:
- Depression and anxiety
- Back pain
- S/p hysterectomy
- s/p perforated colon
- kidney stones in ___
- left arm infection in ___
- s/p menopause
 
Social History:
___
Family History:
Mom with depression and diabetes s/p amputation. 
Aunt with breast cancer. No family members with migraines or 
seizures. 
 
Physical Exam:
ADMISSION EXAM:
Vitals:  T: 97.2  HR: 56   BP: 156/90   RR: 18   SaO2: 99RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple, there is an 
abrasion on the left temporal area with is tender, but no clear 
palpable arterial cord.
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Extremities: Warm, no edema
Back/Neck: There is an area of muscle hypertrophy at the left 
supraclavicular region.  No tenderness along the spinous 
processes. 

Neurologic Examination:
- Mental Status - Awake, alert, oriented x 3. Attention to 
examiner easily maintained. She speaks some ___, but 
primarily speaks ___ as translated by her son.  Per her 
son, speech is normal and comprehension is normal as well. 

- Cranial Nerves - ___: OS ___ OD ___. PERRL 4->3 brisk.  VF 
full to number counting. EOMI, no nystagmus. She endorses 
sensory loss to pin, temperature, light touch on the left that 
is 50% reduced.  She splits the midline with vibration to the 
forehead. No facial movement asymmetry. She says hearing is 
somewhat reduced to finger rub on left.  Palate elevation 
symmetric. SCM/Trapezius strength ___ bilaterally. Tongue 
midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5*   5*  5*  5*  4* 4* 4* 5   5    5  4*    5     4*
R  5    ___   ___  5   5    5  5     5     5
** There is significant give way weakness and poor effort on the 
left that the patient attributes to pain.  I have demarcated 
best effort.

- Sensory - She notes 50% reduction on left to pin, light touch, 
temperature as compared to the left.  Area includes left arm and 
leg as well as torso.  Proprioception of toes and fingers is 
intact.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements on right, and pain limited on left.

- Gait - She cruises on the gurney and furniture in the ED, but 
is stable with a smooth pivot.  Narrow based.  Normal stride 
length.  Romberg is negative. 

DISCHARGE EXAM:
Unchanged.
 
Pertinent Results:
ADMISSION LABS:
6.0 > 13.6/42.0 < 299
Neuts-45.1* Lymphs-47.9* Monos-4.4 Eos-1.8 Baso-0.8

 141 | 104 |  17
---------------< 98
 4.2  |  29 | 0.7

Troponin <0.01 x 2

Cholest-208 HDL-90 CHOL/HD-2.3 LDLcalc-93 Triglyc-125 
TSH-1.6
CRP-2.6
ESR-12
%HbA1c-5.4

Tox Screen:
Blood negative for ASA, Ethanol, Acetmnp, Bnzodzp, 
Barbitr,Tricyclics
URINE negative for bnzodzp, barbitr, opiates, cocaine, amphetm, 
mthdone

UA (___) Epithelial cells 4; RBC 3; WBC 7; moderate bacteria
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

RADIOLOGY:
CXR PA/L (___):
IMPRESSION: 
 
1.  No acute cardiopulmonary process.
 
2. Small rounded indentation on the gastric bubble, possibly 
representing a mass in the hiatal hernia. Recommend barium 
swallow study or CT exam to evaluate for mass.
 
Brief Hospital Course:
___ was admitted to the general Neurology service in 
stable condition. A workup of her L-sided parasthesias with MRI 
of brain and cervical spine did not show any cause for her 
symptoms. She was treated supportively with fioricet and a soft 
cervical collar and her symptoms improved slightly but did not 
resolve. Discussion with her PCP revealed that she has had 
similar symptoms chronically for the past ___ years.

Her L-sided pain spanned her chest so she underwent EKG which 
showed some non-specific T wave flattening in the anterior 
leads. Troponins were negative and EKG was stable. No further 
workup was indicated.

She had suprapubic pain, urinary frequency and urgency. She had 
pyuria and bactiuria on UA, although epithelial cells were also 
noted indicating contaminated sample; however given her symptoms 
she was started on macrobid. Urine culture showed urogenital 
flora.

She had an incidental finding of possible mass within her 
gastric bubble on chest x-ray. Her PCP was alerted to these 
findings.

For her anxiety and depression her home medications were 
continued.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. RISperidone 0.5 mg PO HS 
2. Sertraline 150 mg PO DAILY 
3. trospium 20 mg oral BID 
4. Acetaminophen 325-650 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. RISperidone 0.5 mg PO HS 
2. Sertraline 150 mg PO DAILY 
3. Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H 
Please complete all doses of this medicaiton. 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth twice a day Disp #*5 Capsule Refills:*0
4. Acetaminophen 325-650 mg PO Q6H:PRN pain 
5. trospium 20 mg oral BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left hemibody parasthesias

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for a feeling of pins and 
needles and numbness in your left side as well as a headache. We 
did an MRI of your brain and cervical spine which did not show 
any problems which could cause all of these symptoms. We 
recommend that you follow up closely with your primary care 
doctor to discuss your symptoms.

While you were here you had symptoms of pain in your belly and 
pain with urination. We performed a urinalysis and saw that you 
may have a urinary tract infection. We have given you 
antibiotics to treat this. Please complete all three days of 
treatment and follow up with your primary care doctor.

On your chest x-ray we saw a small abnormality in your stomach; 
you should follow up with your primary care doctor to see if you 
need any follow-up x-rays or other tests.
 
Followup Instructions:
___